US04182766
0.45 g of 2-methylthio-1H-naphth[2,3-d]imidazole and 0.64 g of 2-mercaptomethylpyridine were heated for 40 hours under reflux in 10 ml of ethanol. 10 ml of water were added to the homogeneous solution and the precipitate formed was filtered off. 0.50 g of 2-[(2-pyridylmethyl)thio]-1H-naphth[2,3-d]imidazole having a m.p. of 170° was obtained.

reactant | 2-methylthio-1H-naphth[2,3-d]imidazole | 0.45 g | CSC1=NC2=C(N1)C=C1C=CC=CC1=C2 | C12H10N2S
reactant | 2-mercaptomethylpyridine | 0.64 g | SCC1=NC=CC=C1 | C6H7NS
reactant | water | 10 ml | O | H2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-[(2-pyridylmethyl)thio]-1H-naphth[2,3-d]imidazole | 0.50 g | N1=C(C=CC=C1)CSC1=NC2=C(N1)C=C1C=CC=CC1=C2 | C17H13N3S
